US08124629B2
To a suspension of 4-(chloromethyl)-N-methyl-benzamide (50 mmol) in toluene (200 mL) was added thionyl chloride (29.1 mL, 400 mmol) at room temperature. The resulting suspension was heated at reflux for 15 hours. The reaction mixture was cooled to room temperature and then concentrated under vacuum. The residue was azeotroped with toluene and dried under high vacuum. To a suspension of sodium azide (4.55 g, 70 mmol) in acetonitrile (100 mL) was added chlorotrimethylsilane (9.15 mL, 73.4 mmol) at room temperature and the suspension was stirred for 1.5 hours. The reaction mixture was cooled to −10° C. and the above crude imidoyl chloride (50 mmol) in acetonitrile (65 mL) was added over 5 minutes. The mixture was stirred for 2 hours at 0° C. and then stirred at room temperature for 15 hours. The reaction mixture was diluted with water and extracted with ethyl acetate (2×100 mL). The combined organic extracts were washed with brine and dried over anhydrous magnesium sulfate. Filtration and concentration gave a light yellow solid which was dissolved in hexanes-ethyl acetate (220 mL, 11:9 ratio) at 60-70° C. The resulting solution was stored in the refrigerator overnight and the precipitated solids were collected by filtration and washed with hexanes. After drying in air, 4-(1-methyltetrazol-5-yl)benzyl chloride was isolated as 6.26 g (60%) of a white solid. 1H NMR (300 MHz, CDCl3) δ ppm 7.76 (d, J=8.2 Hz, 2 H), 7.61 (d, J=8.2 Hz, 2 H), 4.67 (s, 2 H), 4.20 (s, 3 H). HRMS (ES+) cald. for C9H9ClN4 [(M+H)+] 209.0589, obsd. 209.0588.

reactant | 4-(chloromethyl)-N-methyl-benzamide | 50 mmol | ClCC1=CC=C(C(=O)NC)C=C1 | C9H10ClNO
reactant | thionyl chloride | 400 mmol, 29.1 mL | S(=O)(Cl)Cl | Cl2OS
reactant | sodium azide | 70 mmol, 4.55 g | [N-]=[N+]=[N-].[Na+]
reactant | chlorotrimethylsilane | 73.4 mmol, 9.15 mL | Cl[Si](C)(C)C | C3H9ClSi
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
solvent | acetonitrile | 65 mL | C(C)#N | C2H3N
solvent | water | O | H2O
product | 4-(1-methyltetrazol-5-yl)benzyl chloride | CN1N=NN=C1C1=CC=C(CCl)C=C1 | C9H9ClN4
